US05907038
108.9 g (3R,4R)-3-[4-(Tetrahydro-pyran-2-yloxy)-benzoylamino]-4-[4-(tetrahydro-pyran-2-yloxy)-benzoyloxy]-azepane-1-carboxylic acid tert-butyl ester (mixture of 4 diast.) was dissolved in 200 ml of a 2N dimethoxyethane and i-Pr-OH (1:1) HCl solution at 0° C. The solution was kept at room temperature for 24 h. The deprotected azepine crystallized, and the reaction mixture was cooled to 0° C. before filtration. The white crystals were washed with dry ether then dissolved in pure water. The water solution was extracted twice with ether before being yand lyophilised. 66.4 g (95% yield) 4-Hydroxy-benzoic acid (3R,4R)-3-(4-hydroxy-benzoylamino)-azepan-4-yl ester hydrochloride (1:1) was obtained as a white powder

reactant | (3R,4R)-3-[4-(Tetrahydro-pyran-2-yloxy)-benzoylamino]-4-[4-(tetrahydro-pyran-2-yloxy)-benzoyloxy]-azepane-1-carboxylic acid tert-butyl ester | 108.9 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(C1=CC=C(C=C1)OC1OCCCC1)=O)NC(C1=CC=C(C=C1)OC1OCCCC1)=O | C35H46N2O9
reactant | HCl | Cl | ClH
solvent | dimethoxyethane | 2N | C(OC)COC | C4H10O2
solvent | i-Pr-OH | C(C)(C)O | C3H8O
product | 4-Hydroxy-benzoic acid (3R,4R)-3-(4-hydroxy-benzoylamino)-azepan-4-yl ester hydrochloride | 66.4 g, 95% yield | Cl.OC1=CC=C(C(=O)N[C@@H]2CNCCC[C@H]2OC(C2=CC=C(C=C2)O)=O)C=C1 | InChI=1S/C20H22N2O5.ClH/c23-15-7-3-13(4-8-15)19(25)22-17-12-21-11-1-2-18(17)27-20(26)14-5-9-16(24)10-6-14;/h3-10,17-18,21,23-24H,1-2,11-12H2,(H,22,25);1H/t17-,18-;/m1./s1
